US06969710B2
N-[2-[(Phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]-8-quinolinesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and 8-quinolinesulfonylchloride (54 mg, 0.239 mmol) according to general method 3 to give 50 mg of a purple solid. MS (posES-FIA) m/z=Found: 524.2. Calcd: 524.13. 1H NMR δ 9.34 (dd, 1H), 8.79 (dd, 1H), 8.37 (dd, 1H), 8.25 (dd, 1H), 7.92 (dd, 1H), 7.73 (t, 1H), 7.57-7.40 (m, 5H), 7.17 (d, 1H), 6.71 (dd, 1H), 6.14 (d, 1H), 3.23-3.08 (m, 8H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | 8-quinolinesulfonylchloride | 0.239 mmol, 54 mg | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
product | N-[2-[(Phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]-8-quinolinesulfonamide | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1CCNCC1)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C25H25N5O4S2
